US04550105
To a solution of 110 mg of sodium cis-3-[2-(2-chloroacetamido-4-thiazolyl)-2-ethoxyiminoacetamido]-4-methoxycarbonyl-2-oxoazetidine-1-sulfonate (syn-isomer) in 8 ml of water in added under ice-cooling 30 mg of sodium monomethyl dithiocarbamate. The mixture is stirred at room temperature for one hour, then another 10 mg of sodium monomethyl dithiocarbamate is added thereto. After the mixture is stirred for further one hour, the resulting reaction mixture is subjected to filtration, and the filtrate is washed with ether. The aqueous layer is purified by column chromatography on Amberlite XAD-II and then lyophilized to give sodium cis-3-[2-(2-amino-4-thiazolyl)-2-ethoxyiminoacetamido]-4-methoxycarbonyl-2-oxoazetidine-1-sulfonate (syn-isomer).

reactant | sodium cis-3-[2-(2-chloroacetamido-4-thiazolyl)-2-ethoxyiminoacetamido]-4-methoxycarbonyl-2-oxoazetidine-1-sulfonate | 110 mg | ClCC(=O)NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@@H]1C(=O)OC)S(=O)(=O)[O-])=O)=NOCC.[Na+]
reactant | sodium monomethyl dithiocarbamate | 30 mg | C(N)(SC)=S.[Na]
reactant | sodium monomethyl dithiocarbamate | 10 mg | C(N)(SC)=S.[Na]
solvent | water | 8 ml | O | H2O
product | sodium cis-3-[2-(2-amino-4-thiazolyl)-2-ethoxyiminoacetamido]-4-methoxycarbonyl-2-oxoazetidine-1-sulfonate | NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@@H]1C(=O)OC)S(=O)(=O)[O-])=O)=NOCC.[Na+] | InChI=1S/C12H15N5O8S2.Na/c1-3-25-16-6(5-4-26-12(13)14-5)9(18)15-7-8(11(20)24-2)17(10(7)19)27(21,22)23;/h4,7-8H,3H2,1-2H3,(H2,13,14)(H,15,18)(H,21,22,23);/q;+1/p-1/t7-,8-;/m0./s1
